US09428469B2
N5-benzyl-N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine (Compound 9)
A solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (70 mg, 287 μmol) and benzaldehyde (121.3 mg, 1.14 mmol) in MeOH (3 ml) was stirred at 45° C. for 2 days to give a suspension, cooled to −20° C. and was filtered to collect the solid. The solid was re-suspended in MeOH (5 ml), NaBH4 (65.1 mg, 1.72 mmol) was added and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was redissolved in EtOAc (5 ml) and washed with water (2×4 ml), dried over MgSO4 and concentrated in vacuo. Crystallization from DCM afforded a white solid as desired product (94 mg, 98% yield). MS +m/z: 334 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | benzaldehyde | 1.14 mmol, 121.3 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH4 | 1.72 mmol, 65.1 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | N5-benzyl-N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | 94 mg, 98% yield | C(C1=CC=CC=C1)NC1=NC(=NN1)NC1=CC(=CC(=C1)Cl)Cl | C15H13Cl2N5
